US09260427B2
Prepared using General Procedure 3: To the solution of (S)-methyl 4-(2-amino-3-methoxy-3-oxopropyl)benzoate (425.0 mg, 1.79 mmol) in DCM (10 mL) and DIEA (463.0 mg, 3.58 mmol) was added 4-(tert-butyl)benzoyl chloride (556.6 mg, 2.83 mmol) at room temperature. The reaction was stirred for 2 h and the reaction was partitioned between DCM and saturated aqueous NaHCO3. The organic layer was dried over MgSO4 and concentrated. The crude product was purified by chromatography (EA/hexanes) to afford 317 mg (45%) of (S)-methyl 4-(2-(4-(tert-butyl)benzamido)-3-methoxy-3-oxopropyl)benzoate. LCMS-ESI (m/z) calculated for C23H27NO5: 397.2. found 398.1 [M+H]+, tR=2.31 min (Method 1). 1H NMR (400 MHz, CDCl3) δ 7.97-7.75 (m, 2H), 7.67-7.51 (m, 2H), 7.46-7.26 (m, 2H), 7.14 (d, J=8.3 Hz, 2H), 6.60 (d, J=7.4 Hz, 1H), 5.03 (dt, J=7.4, 5.7 Hz, 1H), 3.82 (s, 3H), 3.68 (s, 3H), 3.28 (dd, J=13.7, 5.8 Hz, 1H), 3.18 (dd, J=13.7, 5.5 Hz, 1H), 1.24 (s, 9H).

reactant | (S)-methyl 4-(2-amino-3-methoxy-3-oxopropyl)benzoate | 1.79 mmol, 425.0 mg | N[C@@H](CC1=CC=C(C(=O)OC)C=C1)C(=O)OC | C12H15NO4
reactant | DIEA | 3.58 mmol, 463.0 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-(tert-butyl)benzoyl chloride | 2.83 mmol, 556.6 mg | C(C)(C)(C)C1=CC=C(C(=O)Cl)C=C1 | C11H13ClO
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | (S)-methyl 4-(2-(4-(tert-butyl)benzamido)-3-methoxy-3-oxopropyl)benzoate | 317 mg, 45% | C(C)(C)(C)C1=CC=C(C(=O)N[C@@H](CC2=CC=C(C(=O)OC)C=C2)C(=O)OC)C=C1 | C23H27NO5
